US08426420B2
xi) 4-[(S)-3-Acetylamino-2-({5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-propionyl]-piperazine-1-carboxylic acid ethyl ester
To a solution of 100 mg 4-[(S)-3-amino-2-({5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-propionyl]-piperazine-1-carboxylic acid ethyl ester trifluoroacetate in 2 ml dichloromethane were added 32 μl pyridine, 1.6 mg DMAP and 16 μl Ac2O at 0° C. After 1 h stirring at this temperature the reaction mixture was diluted with dichloromethane and washed with 0.1 M HCl and half-saturated aqueous NaHCO3. The crude product obtained after evaporation of the solvent was purified by preparative HPLC (C18 reverse phase column, elution with a water/MeCN gradient with 0.1% TFA). Yield: 35 mg MS (ES+): m/e=681.

reactant | 4-[(S)-3-amino-2-({5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-propionyl]-piperazine-1-carboxylic acid ethyl ester trifluoroacetate | 100 mg | FC(C(=O)O)(F)F.C(C)OC(=O)N1CCN(CC1)C([C@H](CN)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C1=CC=CC=C1)=O
reactant | pyridine | 32 μl | N1=CC=CC=C1 | C5H5N
reactant | Ac2O | 16 μl | CC(=O)OC(=O)C | C4H6O3
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
catalyst | DMAP | 1.6 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-[(S)-3-Acetylamino-2-({5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-propionyl]-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CNC(C)=O)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C1=CC=CC=C1)=O | C33H44N8O8
